US08703969B2
2-(trifluoromethylthio)benzenamine (1 g, 5.18 mmol) prepared in accordance with a method described in J. Fluorin. Chem. 1994, 69, 207 to 212, 5 ml of glacial acetic acid, and 3 ml of 50% sulfuric acid were added into a 50-ml eggplant flask equipped with a stirrer, and were dissolved. Then the mixture was cooled to 0° C. on an ice bath. To the mixture, 1 ml of an aqueous solution of sodium nitrite (0.43 g, 6.22 mmol) was added and the mixture was stirred for 1.5 hours. 1 ml of an aqueous solution of sodium iodide (0.95 g, 6.3 mmol) was added dropwise at 0° C. and the mixture was stirred for 30 minutes. After completion of the reaction, the reaction solution was gradually heated to room temperature and added to water, and the solution was extracted three times with ether. The obtained organic layer was washed three times with water, two times with a saturated sodium bisulfite aqueous solution, and three times with water, dried over anhydrous sodium sulfate, and concentrated to obtain a crude product. The obtained crude product was purified by silica gel column chromatography (Hexane 100) to give target (trifluoromethyl)-(2-iodophenyl)sulfide (1.5 g, 95%) as a yellow oil.

reactant | 2-(trifluoromethylthio)benzenamine | 5.18 mmol, 1 g | FC(SC1=C(C=CC=C1)N)(F)F | C7H6F3NS
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 6.22 mmol, 0.43 g | N(=O)[O-].[Na+]
reactant | sodium iodide | 6.3 mmol, 0.95 g | [I-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (trifluoromethyl)-(2-iodophenyl)sulfide | 1.5 g, 95% | FC(F)(F)SC1=C(C=CC=C1)I | C7H4F3IS
